US07326699B2
trans-N-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-2-ethoxy-acetamide is prepared starting from trans-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine and ethoxy-acetic acid (Fluka, Buchs, Switzerland) according to a procedure known in the art (M. Bodanszky in Principles of Peptide Synthesis, Akad.-Verlag, 1984). Analytical HPLC: tR=7.07 min (Grad 2); ES-MS: m/eo=486.2.

reactant | trans-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | NC[C@@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H25N5O
reactant | ethoxy-acetic acid | C(C)OCC(=O)O | C4H8O3
product | trans-N-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-2-ethoxy-acetamide | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2C[C@H](C2)CNC(COCC)=O | C28H31N5O3
